US08217032B2
4-[2-(3-Fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenol
Charge an oven-dried 250 mL round-bottom flask with 6-methoxy-1-tetralone (3.0 g, 17.0 mmol.) and place under nitrogen. Dissolve the solid in toluene (30 mL) and add 1-bromo-3-fluorobenzene (4.7 mL, 42.6 mmol), sodium t-butoxide (6.5 g, 68.1 mmol), palladium acetate (76 mg, 0.34 mmol), and racemic BINAP (212 mg, 0.34 mmol). Heat the solution to 115° C. and stir for 18 hours. Dilute the solution with cold 5N HCl (50 mL) and ethyl acetate (200 mL). Separate the organic layer and dry over sodium sulfate, filter over a pad of celite and concentrate in vacuo. Purify the crude product using radial chromatography to give 3.4 g (74%) of the title compound. This material is used without further purification: mass spectrum (ion spray) m/z=267 (M−H).

reactant | 6-methoxy-1-tetralone | 17.0 mmol, 3.0 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 1-bromo-3-fluorobenzene | 42.6 mmol, 4.7 mL | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | sodium t-butoxide | 68.1 mmol, 6.5 g | CC(C)([O-])C.[Na+]
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 5N, 50 mL | Cl | ClH
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.34 mmol, 76 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.34 mmol, 212 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 4-[2-(3-Fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenol | 3.4 g, 74% | FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)O | C23H17FO3
